datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C)C([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C)C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C(C)C([H])C([H])[O:10]1>>[O-:10]C([H])C([H])C(C)C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)CC)[H])C)[O-:10])CCCCCC>>CCN([C:20](=[O:10])OC(C(C([O-:21])CC)[H])C)CCCCCC 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)CC 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C(CC)C([H])[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C([H])[NH]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])C(C)=C([H])C([H])[NH+:10]1(C)>>[NH:10](C)C([H])/C([H])=C(C)\C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(O)C(C)C(C)C(CC)[O:10]1>>[O-:10]C(CC)C(C)C(C)C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])O[H])[H])CC>>C(C([O-:21])[H])(C(O[C:20](=[O:10])O[H])[H])CC 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])=C([H])C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C([H])/C([H])=C([H])\[C:20](OC)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[O][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([S]C)[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([S]C)[S][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(C)C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C([H])[O]1 10=20;20,21=21"
"CN([C:20]1(OC(C([O:21]1)C)C1=CC=CC=C1)[O-:10])[H]>>CN([C:20](=[O:10])OC(C([O-:21])C)C1=CC=CC=C1)[H] 10=20;20,21=21"
"[NH:10]([H])C(C)C(C)C([C:20](OC)=[O:21])C>>[O-:21][C:20]1(OC)[NH+:10]([H])C(C)C(C)C1C 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]([O:21]C)([O][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10][H].C[O+:21]=[C:20]([O][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)C1=CC=CC=C1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)CC)[H])CCCCCC)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CCCCCC)C 10=20;20,21=21"
"[H][O+:10](C(C)C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[S][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(C)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[O:10]([K])C(C)C(C)C([H])C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C([H])C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([K])C([H])/C([H])=C(C)\C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(C)=C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C([H])C([H])C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C([H])C([H])C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C)C([H])[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C([H])[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
